US07786129B2
3-{4-[4-(3-Chlorophenyl)-piperazin-1-yl]-butyl}-3-isobutyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-isobutyl-1,3-dihydro-2H-indol-2-one and 1-(3-chlorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-isobutyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC(C)C | C16H22ClNO
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 3-{4-[4-(3-Chlorophenyl)-piperazin-1-yl]-butyl}-3-isobutyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC(C)C | InChI=1S/C26H34ClN3O.ClH/c1-20(2)19-26(23-10-3-4-11-24(23)28-25(26)31)12-5-6-13-29-14-16-30(17-15-29)22-9-7-8-21(27)18-22;/h3-4,7-11,18,20H,5-6,12-17,19H2,1-2H3,(H,28,31);1H
